US07786165B2
3-{2-fluoro-4-[(4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}benzyl)amino]phenyl}propanoic acid
To a solution of ethyl 3-{2-fluoro-4-[(4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}benzyl)amino]phenyl}propanoate (0.420 g, 0.790 mmol) in a mixture of ethanol (6 mL), tetrahydrofuran (12 mL) and water (6 mL) was added lithium hydroxide monohydrate (0.198 g, 4.74 mmol), and the mixture was stirred at room temperature for 2.5 hr. The reaction mixture was neutralized with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (15%-60% ethyl acetate/hexane) to give the title compound (330 mg, yield 83%) as a colorless oil.

reactant | ethyl 3-{2-fluoro-4-[(4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}benzyl)amino]phenyl}propanoate | 0.790 mmol, 0.420 g | FC1=C(C=CC(=C1)NCC1=CC=C(C=C1)C(CCC)CC=1SC=C(N1)C1=CC=CC=C1)CCC(=O)OCC | C32H35FN2O2S
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 4.74 mmol, 0.198 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | water | 6 mL | O | H2O
product | 3-{2-fluoro-4-[(4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}benzyl)amino]phenyl}propanoic acid | 330 mg, yield 83% | FC1=C(C=CC(=C1)NCC1=CC=C(C=C1)C(CCC)CC=1SC=C(N1)C1=CC=CC=C1)CCC(=O)O | C30H31FN2O2S
